US05212320
A mixture of ethyl 4-[3-(3-nitrobenzoyl)indol-1-yl]butyrate (1.60 g), 1N aqueous sodium hydroxide (11 ml) and 1,4-dioxane (50 ml) was stirred at 25° C. for 14 hours. After evaporation of the organic solvent, 1N hydrochloric acid (20 ml) was added to the aqueous solution and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The crystalline residue was recrystallized from a mixture of ethyl acetate and hexane to give 4-[3-(3-nitrobenzoyl)indol-1-yl]butyric acid (1.28 g) as colorless crystals.

reactant | ethyl 4-[3-(3-nitrobenzoyl)indol-1-yl]butyrate | 1.60 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=CC1 | C21H20N2O5
reactant | sodium hydroxide | 1N, 11 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(3-nitrobenzoyl)indol-1-yl]butyric acid | 1.28 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C19H16N2O5
